spice
* SPICE netlist for the given schematic

V1 8 4 AC 1          * Voltage source connected between net 8 and net 4

D1 6 5 DModel        * Diode D1 connected from net 6 (cathode) to net 5 (anode)
D2 3 9 DModel        * Diode D2 connected from net 3 (cathode) to net 9 (anode)

C1 7 4 1uF           * Capacitor C1 connected between net 7 and net 4
C2 4 3 1uF           * Capacitor C2 connected between net 4 and net 3

R1 5 2 1k            * Resistor R1 connected between net 5 and net 2

.model DModel D      * Diode model