* Voltage Source
VS 2 4 DC <value_of_VS>

* Resistors
RS 2 5 <value_of_RS>
R2 3 6 <value_of_R2>

* Zener Diode
D1 5 3 DZ

* Voltage Source Node (For Net Clarity)
VZ 5 3 DC <value_of_VZ>