spice
   .TITLE PNP Transistor Amplifier

   Q1 6 5 4 2N3906

   R1 8 5 10k
   R2 5 0 2.2k
   RC 8 4 3.6k
   RE 6 0 1k

   VCC 8 0 -10V

   .MODEL 2N3906 PNP(IS=1E-14 BF=200 VAF=100)

   .END