* NPN BJT Circuit

VBB 1 0 DC <voltage_value> ; Replace <voltage_value> with the actual value
Q1 4 1 0 NPN ; NPN transistor with collector at node 4, base at node 1, emitter at node 0
R1 3 4 <resistor_value1> ; Replace <resistor_value1> with the actual resistance value
R2 2 0 <resistor_value2> ; Replace <resistor_value2> with the actual resistance value