* PNP Transistor Amplifier Circuit
   VCC 5 0 DC -10V
   Q1 2 3 6 6 2N3906
   R1 5 4 10k
   R2 4 0 2.2k
   RC 2 3 3.6k
   RE 6 0 1k
   .model 2N3906 PNP
   .end