spice
* SPICE Netlist

V1 4 8 AC 1 SIN(0 1 60Hz)  ; AC voltage source with node 4 and ground at node 8
R1 4 2 600                 ; Resistor R1 between node 4 and node 2
R2 2 2 1k                  ; Resistor R2 between node 2 and node 2 (ground)
C1 2 5 1uF                 ; Capacitor between node 2 and node 5

.end