spice
   * NMOS Transistors
M6 7 6 2 2 NMOS
M5 2 3 1 1 NMOS

   * Current Source
IIN 5 4 DC I_IN_VALUE

   * Voltage Supply
VDD 4 0 DC VDD_VALUE

   .model NMOS NMOS
   .end