spice
* SPICE Netlist

I1 3 2 DC <value> * Current Source I_B2 connected between nodes 3 and 2
R1 3 2 <R1_value> * Resistor R1 connected between nodes 3 and 2
C1 2 2 <C1_value> * Capacitor C1 connected between nodes 2 and 2 (grounded)
U1 2 2 4 OPAMP * Operational Amplifier

.END