* Netlist for the provided circuit

* Current Sources
I1 10 4 DC
I2 11 8 DC
I3 2 1 DC
I4 7 5 DC
Itail 0 9 DC

* Resistors
R1 9 10 r1
R2 5 0 r2
Rtail 0 9 rtail
R3a 10 6 r3
R3b 12 6 r4
R4 1 12 rload

* Voltage Source
Vf 5 0 DC

.END