* SPICE Netlist for the given schematic

VCC N002 0 DC <value> ; VCC connected to net 2
RC N003 N002 <value> ; Resistor RC from net 3 to net 2
VOUT N002 N002 ; Output voltage at net 2
VB1 N002 0 DC <value> ; Base voltage for Q2
VIN N004 0 DC <value> ; Input voltage for Q1

Q1 N004 0 0 QN ; Q1 NPN transistor with collector on net 4
Q2 N002 N002 0 QN ; Q2 NPN transistor with collector on net 2

.model QN NPN(IS=1E-14 BF=100)

.END