plaintext
* SPICE netlist for the given CMOS inverter

M1 Net2 Vin 0 NMOSmodel
M2 Vout Net2 Vdd PMOSmodel

Vin Vin 0 DC 0V
Vdd Vdd 0 DC 5V

.model NMOSmodel NMOS
.model PMOSmodel PMOS

.end