spice
* NPN BJT Amplifier

VCC 4 0 DC 15
VIN 1 0 AC 1

RC 4 5 1k
RS 1 2 100
CI 2 3 10u
I1 3 0 DC 0.001

Q1 5 2 3 NPN

.model NPN NPN (IS=1e-14 BF=100)

.ends