spice
* SPICE Netlist

* Voltage Sources
VDD 6 0 DC <value> ; Define the voltage value accordingly
Vin 7 0 DC <value> ; Define the voltage value accordingly

* Current Sources
I1 3 5 DC <value> ; Define the current value accordingly (ISS)

* NMOS Transistors
M1 3 7 5 5 NMOS_MODEL
M2 3 2 5 5 NMOS_MODEL

* PMOS Transistors
M3 6 3 6 6 PMOS_MODEL
M4 6 4 6 6 PMOS_MODEL

* Resistors
R1 4 2 <value> ; Define the resistance value accordingly
R2 2 0 <value> ; Define the resistance value accordingly

* Voltage across R2
VF 2 0

* Model Definitions (Replace with actual models)
.model NMOS_MODEL NMOS
.model PMOS_MODEL PMOS

.end