plaintext
   * SPICE Netlist

   .model NMOS NMOS
   .model PMOS PMOS

VIN Vin 2 DC 0
RD1 3 4 1k
Q1 2 2 4 NMOS
Q2 4 5 0 PMOS
I1 3 5 DC 1mA
RP 4 0 1k
R1 5 0 1k
R2 5 0 1k

   .end