spice
* SPICE Netlist
Q1 3 1 4 NPN
Q2 3 2 4 NPN

VCC 1 0 DC <value_of_VCC>
VB 3 0 DC <value_of_VB>
Vin 2 0 DC <value_of_Vin>
VEE 4 0 DC <value_of_VEE>

RL 4 0 <value_of_RL>

* Define .model parameters if needed
.model NPN NPN(IS=1e-15 BF=100 NF=1 VAF=100)
.end