spice
* SPICE netlist for the schematic

VIN 3 0 DC 0 * Voltage source connected from node 3 to ground
R1 3 3 1k * Resistor R1 connected between VIN (node 3) and VOUT (node 3)
C1 3 2 1uF * Capacitor C1 connected between node 3 and ground

.END