plaintext
* SPICE Netlist for the Circuit

* Voltage Source
V1 Vin 1 DC 0

* Resistors
R1 Vin 2 R1
RX 3 4 RX
RX_1 4 5 RX

* Capacitor
C1 2 0 C

* Op-Amps
XU1 4 3 2 A1
XU2 4 5 6 A2

* Load or Additional Components (Zin, Vout)
RL 5 0 RX

* End of Netlist
.end