spice
* SPICE Netlist for the given circuit

VDD 2 0 DC 1.8

* MOSFET Model (Example Parameters)
.model NMOS NMOS(Level=1 KP=1u Vto=0.7)
M1 2 Vin 3 3 NMOS

* Resistors
RD 2 2 10k
RS 3 0 5k

* Voltage Source
Vin Vin 0 DC 0

* Output
Vout 2 0

.end