* SPICE Netlist for the given schematic

V1 2 4 DC V_G * Voltage Source V_G from Node 2 to Ground
I1 3 4 DC I_S/2 * Current Source I_S/2 from Node 3 to Ground

* PMOS Transistor
M1 2 2 3 3 PMOS * PMOS with Drain at Node 2, Gate at Node 2, Source and Body at Node 3

*.MODEL PMOS PMOS (Level=1 ...)   * Define PMOS model with appropriate parameters

.END