spice
   * NMOS Transistor
M1 6 2 3 3 NMOS_MODEL

   * Resistor
R1 6 4 1k

   * Voltage Sources
V1 1 3 DC 2V
Vin 2 5 DC Vin_value

   * Ground
   .connect 3 0
   .connect 5 0
   .connect 0 0

   .model NMOS_MODEL NMOS
   .end