spice
* MOSFET Folded-Cascode Amplifier

*MOSFET Definitions
M1 5 6 5 5 NMOS
M2 5 6 5 5 NMOS
M1A 5 2 5 5 NMOS
M2A 4 9 4 4 NMOS
M11 5 7 5 5 NMOS
M12 5 7 5 5 NMOS

M3 2 2 10 10 PMOS
M4 4 3 10 10 PMOS
M3A 2 3 10 10 PMOS
M4A 4 3 10 10 PMOS

*Current Source
IL 9 0 DC

*Voltage Source
Vx 8 9 DC

*.model definition
.model NMOS NMOS
.model PMOS PMOS

.end