plaintext
* SPICE Netlist

Vg 3 0 DC <value> ; VG voltage source, define the DC value
Vx 2 0 DC <value> ; VX voltage source, define the DC value
Ix 5 2 DC <value> ; IX current source, define the DC value

* PMOS Transistor
M1 5 3 4 4 PMOS_MODEL ; PMOS:

* NMOS Transistor
M2 6 3 8 8 NMOS_MODEL ; NMOS:

.model PMOS_MODEL PMOS (kp=..., vt0=..., lambda=...)  ; Define PMOS model parameters
.model NMOS_MODEL NMOS (kp=..., vt0=..., lambda=...)  ; Define NMOS model parameters

.end