spice
* NMOS Amplifier Circuit

VDD 3 0 DC <value> ; Define the voltage value for VDD
RD 3 2 <value> ; Define the resistor value for RD
M1 2 1 0 0 NMOS ; NMOS

* Input/Output connections
Vin 1 0 DC <value> ; Define the voltage level for Vin
Vb 1 0 DC <value> ; Define the voltage level for Vb

.model NMOS NMOS    ; Model parameters may be required

.END