plaintext
* SPICE netlist for the provided schematic

* Voltage Sources
Vcc 3 0 DC 1.8V
Vbias1 1 0 DC 0.7V
Vbias2 6 0 DC 0.7V

* BJTs
Q61 8 1 3 QNPN
Q62 12 1 10 QNPN
Q63 10 33 0 QNPN
Q64 2 10 8 QNPN
Q65 25 12 2 QNPN
Q66 26 25 0 QPNP
Q71 2 25 18 QPNP
Q72 4 25 18 QPNP
Q73 33 4 5 QNPN
Q74 5 25 6 QNPN
Q75 5 2 0 QNPN

* Resistors
R61 1 3 33k
R62 8 3 1.4k
R63 33 12 1.2k
R64 26 25 7.5k
R65 3 9 33k
R66 10 9 3.3k
R70 2 18 1.6k
R71 5 33 50

* Capacitors
C65 10 2 10p
C66 25 2 3.2p

* Model Statements
.model QNPN NPN (Is=1e-14 BF=100)
.model QPNP PNP (Is=1e-14 BF=50)

.end