* Differential Amplifier Circuit

   .include model.lib

VDD 2 0 DC 5V

RD1 2 5 10k
RD2 2 4 10k

M1 5 1 3 3 NMOS
M2 4 1 3 3 NMOS
M3 5 6 2 2 PMOS
M4 4 6 2 2 PMOS
M5 3 7 0 0 NMOS
M6 3 8 0 0 NMOS

VCONT1 6 0 DC 2.5V
VCONT2 8 0 DC 2.5V

I_SS 3 0 DC 1mA

   .end