plaintext
* SPICE netlist for the given circuit

VDD 3 0 DC 5V ; Power supply voltage source

R1_X 3 5 1k ; Resistor R1 from node 3 to node 5
R1_Y 3 4 1k ; Resistor R1 from node 3 to node 4
R2 2 0 1k ; Resistor R2 from node 2 to ground

M1 4 2 4 4 pmos ; PMOS M1: drain 4, gate 2, source 4, body 4
M2 5 2 5 5 nmos ; NMOS M2: drain 5, gate 2, source 5, body 5

.END