plaintext
* Netlist for the given schematic

M1 2 1 0 0 NMOS ; NMOS:
M2 3 2 4 4 PMOS ; PMOS:
M3 5 6 4 4 PMOS ; PMOS:

RD 5 3 RDvalue ; Resistor: Between VDD (5) and Vout (3)

VDD 5 0 DC VddValue ; Voltage source: VDD
VIN 1 0 DC VinValue ; Voltage source: Vin
VB1 6 0 DC Vb1Value ; Voltage source: Vb1
VB2 2 0 DC Vb2Value ; Voltage source: Vb2

.END