spice
* SPICE Netlist for the circuit

Vin 2 5 DC 0
RS 5 3 1k  ; Example resistance value
R1 3 6 1k  ; Example resistance value
G1 7 9 VALUE={Gm*(V(3,6))}  ; Gm is the transconductance
RO 8 3 1k  ; Example resistance value
RL 7 9 1k  ; Example resistance value

.END