* NMOS and PMOS are not labeled, assuming both as NMOS for this netlist
* Add appropriate model parameters for simulation

M1 4 2 3 3 nmos
M2 2 4 3 3 nmos

RD1 6 4 RDvalue
RD2 22 4 RDvalue

I1 24 3 AC 0 DC Ivalue

LA 7 3 LAvalue

* Voltage sources
VDD 6 0 DC VDDvalue
Vsub 5 0 DC Vsubvalue
Vin 2 0 DC Vinvalue

.GND 0

.END