spice
* SPICE Netlist

* Current Sources
IS 4 5 DC 0
ISR 8 10 DC 0
ISV 9 6 DC 0

* Voltage Source
IBV 4 4 DC 0

* Diodes
D1 5 3 D_model
D2 2 2 D_model

* Resistors
RE 8 9 0
RP 9 7 0
RS 3 2 0

* Capacitor
C1 2 6 1F

* Models (example diode model)
.model D_model D(IS=1e-14 N=1)

.end