plaintext
* SPICE Netlist for the given schematic

VCC 3 0 DC 15V * VCC is the supply voltage
VI 2 0 DC 5V * Input voltage source
RC 3 4 5k * Collector resistor
QNPN 3 2 4 NPN * NPN Transistor
                          * (Collector, Base, Emitter)

.end