spice
* Spice Netlist for the given circuit

V1 3 4 DC 0 ; Voltage source VS between nodes 3 and 4
R1 4 2 1k ; Resistor R1 between node 4 and 2
R2 2 0 1k ; Resistor R2 between node 2 and ground

* Op-amp connections
E1 (output node) 0 (positive input node) 2 (negative input node) 0 1e6

* Ground
GND 0

.end