spice
* Component definitions
V1 8 0 DC Vs * Voltage source Vs

Q1 7 8 6 QNPN * NPN transistor Q1 (collector base emitter)
R1 7 6 RL1 * Resistor RL1
Q2 6 5 3 QNPN * NPN transistor Q2 (collector base emitter)
R2 6 0 RL2 * Resistor RL2
Q3 3 2 4 QNPN * NPN transistor Q3 (collector base emitter)
R3 2 0 ZL * Resistor ZL

* Feedback network
R4 3 4 RF * Resistor RF
R5 4 0 RE1 * Resistor RE1
R6 3 4 RE2 * Resistor RE2

* Resistors and connections
R7 8 7 Rs * Resistor Rs

.model QNPN NPN
.end