plaintext
* SPICE Netlist
V1 6 3 DC
V2 3 6 DC
VIN1 6 4 DC +6V
VIN2 4 3 DC -6V

Q1 4 5 5 PMOS
Q2 4 4 5 NMOS
Q3 4 8 5 NMOS
Q4 8 4 7 NMOS
Q5 8 4 7 NMOS
Q6 3 8 4 PMOS
Q7 4 3 3 PMOS
Q8 3 4 9 PMOS
Q9 4 4 9 NMOS
Q10 9 4 3 NMOS
Q11 2 7 9 PMOS
Q12 10 3 2 PMOS

R1 5 1 1k * Assume resistance value
R2 2 3 1k * Assume resistance value
R3 3 3 1k * Assume resistance value

.END