plaintext
* SPICE Netlist for the Circuit

V1 2 5 DC 20V * Voltage Source: 20V
R1 2 4 12k * Resistor: 12 kΩ
R2 4 5 4k * Resistor: 4 kΩ
D1 4 3 DZ * Zener Diode
.model DZ D BV=Vz  * Zener Diode Model with breakdown voltage Vz

* Nodes:
* 2: Positive terminal of the voltage source, one terminal of the 12 kΩ resistor
* 4: Connection between resistors and diode
* 3: Cathode of the Zener diode
* 5: Negative terminal connected back to the ground

.END