* SPICE Netlist

* Current Source
I1 3 2 DC 5mA

* Diodes
D1 2 6 D_model
D2 2 4 D_model

* Resistor
R1 4 5 R

* Voltage Sources
V1 3 0 DC 5V
V2 5 0 DC -2V

* Model for diodes
.model D_model D

.end